US08486952B2
4-(4-oxotetrahydro-2H-pyran-3-yl)benzonitrile (Intermediate AA(2)) was reacted as described in Intermediate X(3) with carbonisocyanatidic chloride to give 4-(2,4-dioxo-2,3,4,5,7,8-hexahydropyrano[3,4-e][1,3]oxazin-8-yl)benzonitrile (Intermediate AA(3)). LC-MS (M+H)+=271.1. 1H NMR (400 MHz, CDCl3) δ ppm 7.57-7.78 (m, 2H) 7.41-7.51 (m, 2H) 4.61-4.75 (m, 1H) 4.50 (dd, J=15.49, 2.14 Hz, 1H) 4.04-4.20 (m, 2H) 3.78 (br. s., 1H).

reactant | 4-(4-oxotetrahydro-2H-pyran-3-yl)benzonitrile | O=C1C(COCC1)C1=CC=C(C#N)C=C1 | C12H11NO2
reactant | carbonisocyanatidic chloride | C(=O)(N=C=O)Cl | C2ClNO2
product | 4-(2,4-dioxo-2,3,4,5,7,8-hexahydropyrano[3,4-e][1,3]oxazin-8-yl)benzonitrile | O=C1OC2=C(C(N1)=O)COCC2C2=CC=C(C#N)C=C2 | C14H10N2O4
